US06136831
The procedure of Example 9 was repeated using 1-(7-fluorobenzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione and 4-sulfamoylphenylhydrazine hydrochloride as the starting materials to obtain 4-[5-(7-fluorobenzothiazol-2-yl)-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide (yield, 88%).

reactant | 1-(7-fluorobenzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione | FC1=CC=CC=2N=C(SC21)C(CC(C(F)(F)F)=O)=O | C11H5F4NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[5-(7-fluorobenzothiazol-2-yl)-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | 88% | FC1=CC=CC=2N=C(SC21)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)N)C(F)(F)F | C17H10F4N4O2S2
